US06022829
Then, 3.5 g (9.7 mmol) of 2-[2-fluoro-4-chloro-5-isopropoxyphenyl]-4-methyl-5-trifluoromethylpyridazin-3-one was dissolved in about 10 ml of concentrated sulfuric acid under ice cooling, and the solution was warmed to room temperature. After ten minutes, about 100 ml of water was added to the reaction mixture. The deposited crystals were collected by filtration, and then washed twice with 20 ml of water and once with 10 ml of hexane in this order. The crystals thus obtained were recrystallized from isopropanol, which afforded 3.2 g (9.9 mmol) of 2-[2-fluoro-4-chloro-5-hydroxy-phenyl]-4-methyl-5-trifluoromethylpyridazin-3-one.

reactant | 2-[2-fluoro-4-chloro-5-isopropoxyphenyl]-4-methyl-5-trifluoromethylpyridazin-3-one | 9.7 mmol, 3.5 g | FC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=CC(=C(C1=O)C)C(F)(F)F | C15H13ClF4N2O2
reactant | water | about 100 ml | O | H2O
solvent | sulfuric acid | about 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-[2-fluoro-4-chloro-5-hydroxy-phenyl]-4-methyl-5-trifluoromethylpyridazin-3-one | 9.9 mmol, 3.2 g | FC1=C(C=C(C(=C1)Cl)O)N1N=CC(=C(C1=O)C)C(F)(F)F | C12H7ClF4N2O2
